US04234578
5.43 g of 2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetic acid are dissolved in 200 ml of methylene chloride containing 2.20 ml of 4-methyl-morpholine, the solution, from which moisture is kept excluded, is cooled to -20° C. and 2.86 ml of chloroformic acid isobutyl ester are added dropwise. After 30 minutes, a solution of 9.35 g of 7β-amino-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid diphenylmethyl ester in 100 ml of methylene chloride is added, after which stirring is continued for one hour at -20° C. and for 16 hours whilst slowly warming to room temperature. The mixture is poured out onto ice-cold water, the organic solution is separated off and the aqueous phase is again extracted with 100 ml of methylene chloride. The organic extracts are washed with saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated. Crystallisation of the residue from a mixture of methyl acetate and diethyl ether gives 7β-[2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid diphenylmethyl ester, thin layer chromatogram (silica gel): Rf= 0.38 (system: chloroform/ethyl acetate/acetic acid, 80:19:1); ultraviolet absorption spectrum (in 95% strength aqueous ethanol): shoulders at 242 mμ (ε=16,400) and 274 mμ (ε=9,200); infrared absorption spectrum (in mineral oil): characteristic bands at 3.03μ, 5.58μ, 5.79μ, 6.12μ and 6.51μ.

reactant | 2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetic acid | 5.43 g | C(C)(C)(C)OC(=O)NCC1=CC=C(S1)CC(=O)O | C12H17NO4S
reactant | chloroformic acid isobutyl ester | 2.86 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 7β-amino-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid diphenylmethyl ester | 9.35 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)C(C)SC2=NN=NN2 | C23H22N6O3S2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | 4-methyl-morpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7β-[2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetylamino]-3-(1-methyl-5-tetrazolylthiomethyl)-3-cephem-4-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC=2SC(=CC2)CNC(=O)OC(C)(C)C)=O)=O)C(C)SC2=NN=NN2 | C35H37N7O6S3
